US07939613B2
A suspension of p-methoxybenzophenone (1.06 g, 5.0 mmol), 1.34 equiv of TiCl3/AlCl3 (5.81 g, 6.7 mmol), and 25 equiv of Zn dust (8.01 g, 122.0 mmol) in 100 ml of dry THF was refluxed for 20 h. The reaction mixture was cooled to room temperature and filtered. The filtrates were evaporated and the crude product was purified by a silica gel column using hexane as eluent. 1,2-Bis(4-methoxyphenyl)-1,2-diphenylethene (TPE-OMe) was isolated in 91% yield.

reactant | p-methoxybenzophenone | 5.0 mmol, 1.06 g | COC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C14H12O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Zn | 122.0 mmol, 8.01 g, 25 equiv | [Zn] | Zn
product | 1,2-Bis(4-methoxyphenyl)-1,2-diphenylethene | 91% yield | COC1=CC=C(C=C1)C(=C(C1=CC=CC=C1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C28H24O2
